US04208202
(a) 1-(3'-Amino-4',6'-dimethylphenyl)-6-methyl-piperidin-2-one.
A solution of 65 g (0.5 mol) of 5-oxo-caproic acid and 70 g (0.51 mol) of 3-amino-4,6-dimethylaniline in 300 ml of methanol is hydrogenated at 130°-140° in the presence of Raney nickel. Yield: 110 g.

reactant | 5-oxo-caproic acid | 0.5 mol, 65 g | O=C(CCCC(=O)O)C | C6H10O3
reactant | 3-amino-4,6-dimethylaniline | 0.51 mol, 70 g | NC=1C=C(N)C(=CC1C)C | C8H12N2
solvent | methanol | 300 ml | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | 1-(3'-Amino-4',6'-dimethylphenyl)-6-methyl-piperidin-2-one | NC=1C=C(C(=CC1C)C)N1C(CCCC1C)=O | C14H20N2O
